US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Bromo-2-pyrimidin-5-yl-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CVII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and Pyrimidine-5-carbaldehyde (17.6 mg, 0.163 mmol) were reacted to produce 9.0 mg (14%) of the title compound. mp: >300° C., 1H NMR (300 MHz, DMSO-d6): 13.7 (s, 1H), 9.42 (s, 2H), 9.28 (s, 1H), 8.10 (s, 1H), 7.77 (s, 1H), 7.35 (m, 1H), 7.23 (s, 1H), 6.39 (d, J=8 Hz, 1H), 5.22 (t, J=8 Hz, 1H), 3.3 (s, 1H), 2.90 (s, 1H), 2.78 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.25 (d, J=8 Hz, 1H), 1.40 (d, J=9 Hz, 1H). MS: 426, 428 (M+H), HPLC: 1.91 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | Pyrimidine-5-carbaldehyde | 0.163 mmol, 17.6 mg | N1=CN=CC(=C1)C=O | C5H4N2O
product | (1S,2S,3R,4R)-3-(6-Bromo-2-pyrimidin-5-yl-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 9.0 mg, 14% | BrC=1C(=C2C(=NC1)NC(=N2)C=2C=NC=NC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C18H16BrN7O
